US07550487B2
Step 5: 1-(4-Amino-3-fluoro-phenyl)-1H-pyridin-2-one 1e
4-Bromo-2-fluoroaniline (13.0 g; 68 mmol), 2-hydroxypyridine (9.11 g; 96 mmol), 8-hydroxyquinoline (1.5 g; 10 mmol) are dissolved under argon in DMSO (40 ml). To this solution K2CO3 (10.4 g; 75 mmol) and CuI (1.95 g; 10 mmol) are added and the resulting suspension is heavily stirred under argon at 150° C. for 18 h. The mixture is evaporated to dryness under reduced pressure and the final residue is chromatographed over silica gel (400 g) using dichloromethane/methanol as eluents. The obtained crude product is recrystallized with diethyl ether to yield an off-white solid. Yield: 2.80 g (20.0%), ESI-MS: m/z=205 [M+H]+

reactant | 4-Bromo-2-fluoroaniline | 68 mmol, 13.0 g | BrC1=CC(=C(N)C=C1)F | C6H5BrFN
reactant | 2-hydroxypyridine | 96 mmol, 9.11 g | OC1=NC=CC=C1 | C5H5NO
reactant | 8-hydroxyquinoline | 10 mmol, 1.5 g | OC=1C=CC=C2C=CC=NC12 | C9H7NO
reactant | K2CO3 | 75 mmol, 10.4 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMSO | 40 ml | CS(=O)C | C2H6OS
catalyst | CuI | 10 mmol, 1.95 g | [Cu]I
product | 1-(4-Amino-3-fluoro-phenyl)-1H-pyridin-2-one | NC1=C(C=C(C=C1)N1C(C=CC=C1)=O)F | C11H9FN2O
